US06518260B1
5.3. Ethyl 3-(4-bromophenyl)-2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate
The process is performed according to the operating conditions described in 1.6., starting with 2 g (6.27 mmol) of [2-phenyl-1-[(phenylmethoxy)carbonyl]aminoethyl]phosphinic acid synthesized in 1.4. and 2 g (7.44 mol) of ethyl 4-bromo-α-methylenebenzenepropanoate. 3.1 g of product are recovered (yield=84.1%)

reactant | [2-phenyl-1-[(phenylmethoxy)carbonyl]aminoethyl]phosphinic acid | 6.27 mmol, 2 g | C1(=CC=CC=C1)CC(NC(=O)OCC1=CC=CC=C1)P(O)=O | C16H18NO4P
reactant | ethyl 4-bromo-α-methylenebenzenepropanoate | 7.44 mol, 2 g | BrC1=CC=C(C=C1)CC(C(=O)OCC)=C | C12H13BrO2
product | Ethyl 3-(4-bromophenyl)-2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate | yield=84.1% | BrC1=CC=C(C=C1)CC(C(=O)OCC)CP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)O | C28H31BrNO6P
